US09376442B2
tert-Butyl 4-[({4-[5-(cyclopropylmethoxy)-1,3-benzodioxol-4-yl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidin-7-yl}carbonyl)amino]piperidine-1-carboxylate
A solution of tert-butyl 4-{[(4-[5-(cyclopropylmethoxy)-1,3-benzodioxol-4-yl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidin-7-yl)carbonyl]amino}piperidine-1-carboxylate from example D.d1 (3.74 g; 5.5 mmol), tetrabutylammonium fluoride trihydrate (5.21 g; 16.5 mmol) and ethane-1,2-diamine (0.50 g; 8.25 mmol) in tetrahydrofurane (40 mL) is heated to gentle reflux until the starting material is completely consumed according to LC-MS. The crude is purified by column chromatography on silica gel (ethyl acetate/cyclohexane—1:1 to 2:1) to yield the title compound as colorless solid.

reactant | tert-butyl 4-{[(4-[5-(cyclopropylmethoxy)-1,3-benzodioxol-4-yl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidin-7-yl)carbonyl]amino}piperidine-1-carboxylate | C1(CC1)COC1=C(C2=C(OCO2)C=C1)C=1C2=C(N=CN1)C(=C(N2COCC[Si](C)(C)C)C)C(=O)NC2CCN(CC2)C(=O)OC(C)(C)C | C35H49N5O7Si
reactant | tetrabutylammonium fluoride trihydrate | 16.5 mmol, 5.21 g | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ethane-1,2-diamine | 8.25 mmol, 0.50 g | C(CN)N | C2H8N2
solvent | tetrahydrofurane | 40 mL | O1CCCC1 | C4H8O
product | tert-Butyl 4-[({4-[5-(cyclopropylmethoxy)-1,3-benzodioxol-4-yl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidin-7-yl}carbonyl)amino]piperidine-1-carboxylate | C1(CC1)COC1=C(C2=C(OCO2)C=C1)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)NC2CCN(CC2)C(=O)OC(C)(C)C | C29H35N5O6
